US07314885B2
4-[5-(2,3-Difluoro-phenyl)-imidazol-1-yl]-1H-pyrrole-2-carboxylic acid:
To a solution of 4-[(2,3-difluoro-benzylidene)-amino]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester (500 mg, 1.40 mmol) in co-solvents of MeOH (10 mL) and DME (5 mL) was added TosMIC (410 mg, 2.10 mmol) and K2CO3 (390 mg, 2,82 mmol). The reaction mixture was heated under reflux for 2 hours and the solvents were removed by evaporation. The residue was treated with LiOH in THF/H2O at room temperature for 14 hours. After removal of the solvents by evaporation, the residue was acidified by 2N HCl solution. The crude product was then purified by HPLC to afford 50 mg desired product (12%). MS (ES−): m/e=288.0 (M−H); LC/Method A/2.45 min.

reactant | 4-[(2,3-difluoro-benzylidene)-amino]-1-methanesulfonyl-1H-pyrrole-2-carboxylic acid ethyl ester | 1.40 mmol, 500 mg | C(C)OC(=O)C=1N(C=C(C1)N=CC1=C(C(=CC=C1)F)F)S(=O)(=O)C | C15H14F2N2O4S
reactant | MeOH | 10 mL | CO | CH4O
reactant | TosMIC | 2.10 mmol, 410 mg | CC1=CC=C(C=C1)S(=O)(=O)C[N+]#[C-] | C9H9NO2S
reactant | K2CO3 | 2,82 mmol, 390 mg | C(=O)([O-])[O-].[K+].[K+]
solvent | DME | 5 mL | COCCOC | C4H10O2
product | 4-[5-(2,3-Difluoro-phenyl)-imidazol-1-yl]-1H-pyrrole-2-carboxylic acid | 50 mg, 12% | FC1=C(C=CC=C1F)C1=CN=CN1C=1C=C(NC1)C(=O)O | C14H9F2N3O2
